US04241058
67.8 g of 3-(p-tert.butyl-phenyl)-2-methyl-propionaldehyde and 50 g of 3,5-dimethyl-piperidine are heated at reflux in 50 ml of toluene in a water-separator under nitrogen gasification until the water-cleavage has been completed (16 hours). Subsequently, there are added dropwise at room temperature while stirring 16.8 g of formic acid, the temperature rising to 36°-40° C. The mixture is then heated to 80° C. for 1 hour. 165 ml of 2-N hydrochloric acid are added to the cooled solution, the toluene solution is separated, the aqueous-hydrochloric acid solution is made alkaline with 66 ml of 6-N sodium hydroxide and the product is extracted with ether. The combined ether extracts are washed with water, dried over sodium sulphate and evaporated. By distillation there is obtained pure 1-[3-(p-tert.butyl-phenyl)-2-methyl-propyl]-3,5-dimethyl-piperidine of boiling point 113°-114° C./0.09 Torr.

reactant | 3-(p-tert.butyl-phenyl)-2-methyl-propionaldehyde | 67.8 g | C(C)(C)(C)C1=CC=C(C=C1)CC(C=O)C | C14H20O
reactant | 3,5-dimethyl-piperidine | 50 g | CC1CNCC(C1)C | C7H15N
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | formic acid | 16.8 g | C(=O)O | CH2O2
product | 1-[3-(p-tert.butyl-phenyl)-2-methyl-propyl]-3,5-dimethyl-piperidine | C(C)(C)(C)C1=CC=C(C=C1)CC(CN1CC(CC(C1)C)C)C | C21H35N
